US04393149
2-Nitromethylmethylpropanol is reacted with methylamine to form N-methyl-2-nitromethylpropylamine which is hydrogenated to the diamine. The latter is then reacted with acetic acid to form 1,2,4,4-tetramethyl-2-imidazoline. It is tested as a polyurethane foam catalyst by the method of Example 1 and is found to be effective.

reactant | 2-Nitromethylmethylpropanol | [N+](=O)([O-])CC(C(O)C)C | C5H11NO3
reactant | methylamine | CN | CH5N
product | N-methyl-2-nitromethylpropylamine | CNCC(C)C[N+](=O)[O-] | C5H12N2O2
